US07101905B2
Part C: Ethyl 3-(benzylamino)propionate
This compound is prepared according to the method of Klioze and Ehrgott (U.S. Pat. No. 4,216,218) from ethyl acrylate and benzylamine

reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | Ethyl 3-(benzylamino)propionate | C(C1=CC=CC=C1)NCCC(=O)OCC | C12H17NO2
